US06005098
To a solution of 2',3'-di-O-acetyl-5'-deoxy-5-[2-(trimethylsilyl)-ethynyl]cytidine (100 mg, 0.25 mmol) and triphosgene (73 mg, 0.25 mmol) in dry dichloromethane (3 ml) there was added a solution of 3-methoxy-2,2-dimethylpropanol (77 mg, 0.65 mmol) [ref. Tetrahedron Asymmetry,1995,6, 271-282] and diisopropylethylamine (182 ml,1.3 mmol) in dry dichloromethane (2 ml). After stirring for 30 min at room temperature under Ar, methanol (0.5 ml) and water (0.5 ml) were added dropwise to the reaction mixture at room temperature. After stirring for an additional 5 minutes, the reaction mixture was partitioned between dichloromethane and water. The aqueous layer was extracted with dichloromethane. The combined organic layers were washed with brine, dried over anhydrous MgSO4 and filtered. The filtrate was evaporated under reduced pressure. Purification of the residue by preparative thin layer chromatography on silica gel (using n-hexane:ethyl acetate=1:1 as a developing solvent) gave 2',3'-di-O-acetyl-5'-deoxy- N4 -[(3-methoxy-2,2-dimethylpropoxy)carbonyl]-5-[2-(trimethylsilyl)ethynyl]-cytidine (107 mg,79%).

reactant | 2',3'-di-O-acetyl-5'-deoxy-5-[2-(trimethylsilyl)-ethynyl]cytidine | 0.25 mmol, 100 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C)N1C(=O)N=C(N)C(=C1)C#C[Si](C)(C)C | C18H25N3O6Si
reactant | triphosgene | 0.25 mmol, 73 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 3-methoxy-2,2-dimethylpropanol | 0.65 mmol, 77 mg | COCC(CO)(C)C | C6H14O2
reactant | diisopropylethylamine | 1.3 mmol, 182 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | water | 0.5 ml | O | H2O
solvent | methanol | 0.5 ml | CO | CH4O
product | 2',3'-di-O-acetyl-5'-deoxy- N4 -[(3-methoxy-2,2-dimethylpropoxy)carbonyl]-5-[2-(trimethylsilyl)ethynyl]-cytidine | 107 mg, 79% | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C)N1C(=O)N=C(NC(=O)OCC(COC)(C)C)C(=C1)C#C[Si](C)(C)C | C25H37N3O9Si
